US07011838B2
First, 1.00 g of (4-chloro-α-methylbenzylidene)malononitrile of the formula: was dissolved in 20 ml of diethyl ether, to which a catalytic amount of copper (I) iodide was added, and while stirring under ice cooling, a solution of methyl magnesium iodide in diethyl ether (prepared from 0.30 g of magnesium, 10 ml of diethyl ether, and 0.86 ml of methyl iodide) was added dropwise, followed by stirring for 30 minutes under ice cooling. Then, 10% hydrochloric acid was added to the reaction mixture, which was extracted with ethyl ether. The organic layer was successively washed with 10% hydrochloric acid, a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.74 g of (1-(4-chlorophenyl)-1-methylethyl)malononitrile (the intermediate (2)).

reactant | (4-chloro-α-methylbenzylidene)malononitrile | 1.00 g | ClC1=CC=C(C(C)=C(C#N)C#N)C=C1 | C11H7ClN2
reactant | methyl magnesium iodide | C[Mg]I
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | copper (I) iodide | [Cu]I
solvent | diethyl ether | 10 ml, 0.30 g | C(C)OCC | C4H10O
product | (1-(4-chlorophenyl)-1-methylethyl)malononitrile | 0.74 g, Yield: 69% | ClC1=CC=C(C=C1)C(C)(C)C(C#N)C#N | C12H11ClN2
